US04337256
1-Amino-2-(2-methylphenyl)ethane and pivaloyl chloride were reacted in the same way as in step (a) of Example 1 to afford 1-pivaloylamino-2-(2-methylphenyl)-ethane. The product was successively reacted in the same way as in steps (b), (c), (d) and (e) of Example 1 to afford 1-tert-butylsioquinoline-5-acetonitrile.

reactant | 1-Amino-2-(2-methylphenyl)ethane | NCCC1=C(C=CC=C1)C | C9H13N
reactant | pivaloyl chloride | C(C(C)(C)C)(=O)Cl | C5H9ClO
product | 1-pivaloylamino-2-(2-methylphenyl)-ethane | C(C(C)(C)C)(=O)NCCC1=C(C=CC=C1)C | C14H21NO
